US08835465B2
(2-Chloro-pyridin-4-yl)-(5-cyclopropyl-1H-pyrazole-3-yl)-amine
A mixture of 4-iodo-2-chloropyridine (0.26 g, 1.1 mmol), 3-amino-5-cyclopropyl-pyrazole-1-carboxylic acid tert-butyl ester (0.20 g, 0.89 mmol), Pd2 dba3 (0.016 g, 2 mol %), Xantphos (0.031 g, 6 mol %), and Cs2CO3 (0.41 g, 1.3 mmol) in degassed toluene (4 ml) was purged with N2 and heated to 100° C. in a sealed tube for 2 days. The mixture was diluted with THF and filtered to remove Cs2CO3. The filtrate was concentrated under reduced pressure and purified by column chromatography (hexane-EtOAc=3:1) to give the title compound (0.10 g, 48%). MS: Calcd.: 234. Found: [M+H]+ 235.

reactant | 4-iodo-2-chloropyridine | 1.1 mmol, 0.26 g | IC1=CC(=NC=C1)Cl | C5H3ClIN
reactant | 3-amino-5-cyclopropyl-pyrazole-1-carboxylic acid tert-butyl ester | 0.89 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1N=C(C=C1C1CC1)N | C11H17N3O2
reactant | Xantphos | 0.031 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.3 mmol, 0.41 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.016 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-Chloro-pyridin-4-yl)-(5-cyclopropyl-1H-pyrazole-3-yl)-amine | 0.10 g, 48% | ClC1=NC=CC(=C1)NC1=NNC(=C1)C1CC1 | C11H11ClN4
